US09126931B2
8-[(E)-2-(2,2-Dimethyl-[1,3]dioxolan-4-yl)-vinyl]-6,6-dimethyl-6H-benzo[b]naphtho[2,3-d]furan-11-one
To the DMF solution (4 ml) of trifluoro-methanesulfonic acid 6,6-dimethyl-11-oxo-6,11-dihydro-benzo[b]naphtho[2,3-d]furan-8-yl ester (300 mg), 2,2-dimethyl-4-vinyl-[1,3]dioxolane (469 mg) and PdCl2(PPh3)2 (103 mg), sodium hydrocarbonate (184 mg) was added, and the mixture was stirred at 100° C. overnight under nitrogen atmosphere. The reaction mixture was diluted with ethyl acetate. The organic layer was washed with saturated aqueous solution of sodium bicarbonate and saturated brine, and then concentrated under reduced pressure. The resulting residues were purified by silica gel column (ethyl acetate/hexane) to obtain the title compound (130 mg, 46%).

reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
reactant | trifluoro-methanesulfonic acid 6,6-dimethyl-11-oxo-6,11-dihydro-benzo[b]naphtho[2,3-d]furan-8-yl ester | 300 mg | CC1(C2=CC(=CC=C2C(C=2C3=C(OC21)C=CC=C3)=O)OS(=O)(=O)C(F)(F)F)C | C19H13F3O5S
reactant | 2,2-dimethyl-4-vinyl-[1,3]dioxolane | 469 mg | CC1(OCC(O1)C=C)C | C7H12O2
reactant | sodium hydrocarbonate | 184 mg | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | PdCl2(PPh3)2 | 103 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 8-[(E)-2-(2,2-Dimethyl-[1,3]dioxolan-4-yl)-vinyl]-6,6-dimethyl-6H-benzo[b]naphtho[2,3-d]furan-11-one | 130 mg, 46% | CC1(OCC(O1)/C=C/C=1C=C2C(C3=C(C4=C(O3)C=CC=C4)C(C2=CC1)=O)(C)C)C | C25H24O4
